Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
colchicine / tamsulosin
 
Attending: ___.
 
Chief Complaint:
Fevers, Altered Mental Status
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ h/o CAD, HTN, HLD, and afib on Apixiban was brought in with 
altered mental status. History obtained from both the patient 
and his son, who was at the bedside. Per report, the patient was 
in his USOH until last night, when he awoke confused. Per the 
patient's son, he was oriented to place at the time (although ED 
notes suggest that he was not). He was agitated and was trying 
to leave his house. There may have also been a complaint of 
dizziness, per ED notes. The patient was also noted to have low 
grade fevers at that time. His family brought him to the ED for 
evaluation. 

On arrival to the floor, the patient denies any acute 
complaints. He is not happy about being admitted to the 
hospital. Per his son, his mental status has returned to 
baseline. He denies any recent cough, NVD, or urinary symptoms.

ROS: As above otherwise 10point ROS negative 
 
Past Medical History:
CAD, HLD, HTN, A fib
ATYPICAL NEVI
 
Social History:
___
Family History:
Father with DM. Brother with colon CA. 
 
Physical Exam:
-Vitals: reviewed, tmax ___, HR 63-84, BP 147/87-172/115, SpO2 
93-96%  
-GEN: Alert, NAD
-HEENT: moist mucus membranes, PERRL, EOMi, ataumatic, 
normocephalic 
-CV: irregularly irregular. No murmur
-RESP: clear b/l, no wheeze, no rales 
-GI: soft, nontender, nondistended, bowel sounds present 
-MSK: No pedal edema or calf tenderness
-SKIN: No apparent rashes, no jaundice 
-NEURO: mild cognitive impairment (son notes currently at 
baseline), EOMI, PERRL
droop on the L (son notes baseline)
-PSYCH: appropriate mood and affect 
 
Pertinent Results:
LABS
___ 06:02AM BLOOD WBC-7.3 RBC-5.04 Hgb-15.8 Hct-47.7 MCV-95 
MCH-31.3 MCHC-33.1 RDW-13.9 RDWSD-48.0* Plt ___
___ 06:02AM BLOOD Neuts-61.3 ___ Monos-8.4 Eos-3.3 
Baso-0.4 Im ___ AbsNeut-4.48 AbsLymp-1.91 AbsMono-0.61 
AbsEos-0.24 AbsBaso-0.03
___ 06:02AM BLOOD ___ PTT-28.7 ___
___ 06:02AM BLOOD Glucose-96 UreaN-25* Creat-1.0 Na-143 
K-5.0 Cl-105 HCO3-24 AnGap-14
___ 06:02AM BLOOD ALT-30 AST-41* AlkPhos-358* TotBili-0.9
___ 06:02AM BLOOD Lipase-26
___ 06:02AM BLOOD cTropnT-<0.01
___ 06:02AM BLOOD Albumin-4.5 Calcium-9.7 Phos-3.1 Mg-2.2
___ 06:05AM BLOOD Lactate-1.0

IMAGING
-CT HEAD ___:  No acute intracranial abnormality. Suggestion 
of 2.1 cm sebaceous cyst right neck, clinically correlate. 
-CXR ___: Right lower lobe opacity could reflect 
atelectasis, although infection cannot  be excluded.  Moderate 
cardiomegaly. 

 
Brief Hospital Course:
___ h/o CAD, HTN, HLD, and A fib on Apixiban presented with 
altered mental status found to have pneumonia. 

Community acquired pneumonia
-CXR concerning for possible right lower lobe pneumonia with 
fever at home started on ceftriaxone and azithromycin with 
resolution of acute encephalopathy.  He was transitioned to 
augmentin + azithromycin at discharge to complete 5 day course.  
Influenza negative.

Acute encephalopathy h/o mild cognitive impairment 
-CT head without acute process. Clinically patient does not 
offer any other localizing or acute symptoms and labs do not 
reflect metabolic or infection abnormalities. CXR with possible 
pneumonia was the only noticeable abnormality and he was started 
on antibiotics with resolution of encephalopathy.  Neurology saw 
patient who agrees that presentation is likely acute delirium in 
setting of suspected dementia.  Consider outpatient follow up 
with ___ clinic. 

CHRONIC MEDICAL PROBLEM
1. A fib: continue atenolol and apixaban
2. HTN: continue quinapril, atenolol, amlodipine
3. HLD, CAD: continue atorvastatin and PRN nitroglycerin. 
Patient is not on aspirin.  

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Quinapril 20 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Apixaban 5 mg PO BID 
5. Atorvastatin 60 mg PO QPM 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN CP 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 3 Days 
___ 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice a day Disp #*6 Tablet Refills:*0 
2.  Azithromycin 250 mg PO DAILY Duration: 3 Doses 
take through ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Apixaban 5 mg PO BID  
5.  Atenolol 25 mg PO DAILY  
6.  Atorvastatin 60 mg PO QPM  
7.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN CP  
8.  Quinapril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community acquired bacterial pneumonia
Acute encephalopathy h/o mild cognitive impairment 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

You were admitted with confusion found to have pneumonia. You 
were treated with antibiotics with improvement.  You will 
continue oral antibiotics at discharge and follow up with your 
PCP.

It was a pleasure taking care of you.
-Your ___ team 
 
Followup Instructions:
___